US04239689
A mixture of (2S*, 3R*)-3-benzyloxy-1,1-ethylenedioxy-2-methyl-2-(4'-methyl-5'-hydroxypentyl)-cyclohexane (13.9 g, 0.0384 mol), acetone (150 ml), water (20 ml) and 0.002 N sulfuric acid (50 ml) is refluxed for 18 hours under a nitrogen atmosphere. The reaction mixture is cooled, the acetone evaporated under reduced pressure and the aqueous layer extracted with ether (3×500 ml). The combined organic layers are washed with saturated sodium bicarbonate (100 ml), saturated sodium chloride (2×200 ml) and dried (MgSO4). The solvents are removed to afford (2S*, 3R*)-3-benzyloxy-2-methyl-2-(4'-methyl-5'-hydroxypentyl)-cyclohexanone (crude product, 12.2 g, 100%): ir (neat) 3484 (OH), 1709 cm-1 (CO); nmr (CDCl3)δ 0.88 (d, J=6 Hz, 3H, --CH--CH3), 1.08 (s, 3H, CH3), 3.42 (m, 4H, HO--CH2 --CH--, OH and --CH--O--CH2Ph), 4.50 (d of d, J=10 Hz, 2H, Ph--CH2 --O--), 7.2 (s, 5H, aromatic).

reactant | 3-benzyloxy-1,1-ethylenedioxy-2-methyl-2-(4'-methyl-5'-hydroxypentyl)-cyclohexane | 0.0384 mol, 13.9 g | C(C1=CC=CC=C1)OC1C(C2(CCC1)OCCO2)(CCCC(CO)C)C | C22H34O4
reactant | acetone | 150 ml | CC(=O)C | C3H6O
reactant | sulfuric acid | 0.002 N, 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
product | 3-benzyloxy-2-methyl-2-(4'-methyl-5'-hydroxypentyl)-cyclohexanone | 12.2 g, 100% | C(C1=CC=CC=C1)OC1C(C(CCC1)=O)(CCCC(CO)C)C | C20H30O3
